US04598078
To a solution of cyclohexane-1,2-dicarboximide (6.50 g) in anhydrous dimethylformamide (65 ml), a 60% mineral oil suspension of sodium hydride (1.60 g) was added at room temperature while stirring, and the resultant mixture was continuously stirred for 30 minutes. A solution of 3-[4-(2-pyrimidinyl)piperazinyl]propyl chloride (11.30 g) in anhydrous dimethylformamide (30 ml) was dropwise added thereto, and the resultant mixture was stirred at room temperature for 4.5 hours. The solvent was removed under reduced pressure, and the residue was purified by chromatography to give an oily substance, which was then treated with hydrogen chloride to give N-[3-{4-(2-pyrimidinyl)-1-piperazinyl}propyl]cyclohexane-1,2-dicarboximide hydrochloride. M.P., 180°-182° C.

reactant | cyclohexane-1,2-dicarboximide | 6.50 g | C12C(CCCC1)C(NC2=O)=O | C8H11NO2
reactant | sodium hydride | 1.60 g | [H-].[Na+]
reactant | 3-[4-(2-pyrimidinyl)piperazinyl]propyl chloride | 11.30 g | N1=C(N=CC=C1)N1CCN(CC1)CCCCl | C11H17ClN4
reactant | hydrogen chloride | Cl | ClH
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-[3-{4-(2-pyrimidinyl)-1-piperazinyl}propyl]cyclohexane-1,2-dicarboximide hydrochloride | Cl.N1=C(N=CC=C1)N1CCN(CC1)CCCN1C(=O)C2C(CCCC2)C1=O | InChI=1S/C19H27N5O2.ClH/c25-17-15-5-1-2-6-16(15)18(26)24(17)10-4-9-22-11-13-23(14-12-22)19-20-7-3-8-21-19;/h3,7-8,15-16H,1-2,4-6,9-14H2;1H
